US05144015
(a) Pivaloylmalononitrile intermediate
Pivaloyl chloride (60 g) and malononitrile (33 g) were dissolved in methylene chloride (500 ml) and were placed in a flask equipped with a stirrer and a dropping funnel. Triethylamine (100 g) was added slowly with cooling over a period of 45 minutes. The triethylamine hydrochloride was removed and the filtrate was concentrated to about half volume. The solution was poured onto ice, acidified strongly with concentrated hydrochloric acid and the resulting product was filtered off and air dried.

reactant | Pivaloyl chloride | 60 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | malononitrile | 33 g | C(CC#N)#N | C3H2N2
reactant | Triethylamine | 100 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Pivaloylmalononitrile | C(C(C)(C)C)(=O)C(C#N)C#N | C8H10N2O
